US07351719B2
170) N-[3-chloro-4-(4-methyl-piperidin-1-ylmethyl)-phenyl]-2-(2-chloro-4-trifluoromethyl-phenoxy)-acetamide
0.24 mL (2.000 mmol) 4-methylpiperidine was added to a solution of 0.206 g (0.500 mmol) N-(3-chloro-4-chloromethyl-phenyl)-2-(2-chloro-4-trifluoromethyl-phenoxy)-acetamide (Z32b) in 5 mL abs. THF and the mixture was refluxed for 2 h. The reaction mixture was poured onto ice water, the precipitate was filtered off, washed with water and dried in a HV.

reactant | 4-methylpiperidine | 2.000 mmol, 0.24 mL | CC1CCNCC1 | C6H13N
reactant | N-(3-chloro-4-chloromethyl-phenyl)-2-(2-chloro-4-trifluoromethyl-phenoxy)-acetamide | 0.500 mmol, 0.206 g | ClC=1C=C(C=CC1CCl)NC(COC1=C(C=C(C=C1)C(F)(F)F)Cl)=O | C16H11Cl3F3NO2
solvent | THF | C1CCOC1 | C4H8O
product | N-[3-chloro-4-(4-methyl-piperidin-1-ylmethyl)-phenyl]-2-(2-chloro-4-trifluoromethyl-phenoxy)-acetamide | ClC=1C=C(C=CC1CN1CCC(CC1)C)NC(COC1=C(C=C(C=C1)C(F)(F)F)Cl)=O | C22H23Cl2F3N2O2
